US06608203B2
2,2,2-Trifluoro-1-[7-methoxy-4-(4-methoxy-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethanone
To a solution of 7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline (1.43 g, 5.31 mmol, see Preparation 64) and Et3N (1.08 g, 10.6 mmol) in CH2Cl2 (50 ml) cooled to 0° C. was added trifluoroacetic anhydride (1.89 g, 1.27 ml, 9.03 mmol). The reaction was stirred at 0° C. for 4 hours, then the reaction mixture was poured into sat. NaHCO3 (50 ml). The mixture was extracted with CH2Cl2 (3×50 ml). The organics were combined, dried over MgSO4, filtered, and concentrated in vacuo. Flash chromatography (Biotage, SiO2, 10% EtOAc/hexanes) gave the title product (1.74 g, 4.76 mmol, 90% yield).

reactant | 7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline | 5.31 mmol, 1.43 g | COC1=CC=C2C(CNCC2=C1)C1=CC=C(C=C1)OC | C17H19NO2
reactant | Et3N | 10.6 mmol, 1.08 g | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 9.03 mmol, 1.27 ml, 1.89 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-[7-methoxy-4-(4-methoxy-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethanone | 4.76 mmol, 1.74 g, 90% yield | FC(C(=O)N1CC2=CC(=CC=C2C(C1)C1=CC=C(C=C1)OC)OC)(F)F | C19H18F3NO3
